* Z:\home\pab\Circuits\light-affected-tone-pedal\light-tone-pedal-circuit.asc
XU2 N005 Vout2 VCC 0 Vout2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 N009 0 9
V2 Vin 0 SINE(0 0.2 1k) AC 1 0 Rser=1Meg
Rhigh 0 N001 24k
Rlow N008 N006 24k
Clow N008 0 0.022µ
Chigh N001 Vout2 5600p
RPOT1 N001 N004 {Z}
RPOT2 N004 N008 {50k-Z}
R§LDRhigh 0 N001 {X}
R§LDRlow N006 Vout2 {Y}
C1 Vout3 N007 10µ
RVol1 N007 Vout_final 500k
RVol2 Vout_final 0 500k
R3 VCC N005 1Meg
R4 N005 0 1Meg
C3 N005 Vin 0.1µ
XU3 N003 N002 VCC 0 Vout3 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N003 0 1Meg
R8 VCC N003 1Meg
C7 N003 N004 10µ
R1 N002 P001 1k
R2 N002 Vout3 100k
C2 0 P001 0.1µ
C4 VCC 0 100µ
R5 VCC N009 200
.step param X 3k 10k 1k
;ac dec 10 1 1G
* f3db = 1 / (2*pi*Rpole*Cpole)
* Vout / Vin = (1 + (Rf / Rg)) * ( 1 /  ( 1 + s*Rpole*Cpole) )
.step param Y 3k 10k 1k
*.param X  3k
*.param Y=3k
.param Z=30k
*.step param Z 1k 9.9k 1k
* https://www.digikey.com/products/en/sensors-transducers/optical-sensors-photo-detectors-cds-cells/540?k=light+dependent+resistor&k=&pkeyword=light+dependent+resistor&sv=0&pv732=4&sf=0&quantity=&ColumnSort=0&page=1&stock=1&datasheet=1&pageSize=25
.tran 0 50ms 0 1ms
.op
* *Important Note: Signal starts clipping at bottom if Rin < 50k
.lib UniversalOpamps2.sub
.backanno
.end
